Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Neosporin / Hydroxychloroquine / ceftriaxone
 
Attending: ___.
 
Chief Complaint:
multiple complaints: confusion, decreased PO intake, watery 
stools, shortness of breath

In the ED, initial vitals:  97.0 67 ___ 100% RA. EKG was 
unchanged from prior. Labs were significant for leukocytosis to 
11.1 ( N:51.0 L:26.5 M:12.5 E:9.7 Bas:0.5). UA with large leuks, 
24 wbc. She received ceftriaxone and was admitted to the floor. 
CT abd/pelvis showed mild colitis. CXR was negative for 
pneumonia.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ coming with pmhx of dementia, CKD, HTN who presents from 
assisted living with several complaints. Per pt's daughter, she 
has not been herself for past several days. Daughter states she 
has been more lethargic and more forgetful. Daughter also feels 
she has not kept up with PO intake. Her blood pressures at her 
assisted living have been running low as well, with systolic 
blood pressures in ___. Assisted living has also noted pt 
having multiple watery stools a day as well. 

This morning, pt's daughter was driving pt began complaining of 
shortness of breath and daughter decided to bring her into the 
Emergency Department

In the ED, initial vitals:  97.0 67 ___ 100% RA. EKG was 
unchanged from prior. Labs were significant for leukocytosis to 
11.1 ( N:51.0 L:26.5 M:12.5 E:9.7 Bas:0.5). UA with large leuks, 
24 wbc. She received ceftriaxone and was admitted to the floor. 
CT abd/pelvis showed mild colitis. CXR was negative for 
pneumonia. On arrival patient denied feeling short of breath and 
was resting comfortably.

Vitals prior to transfer: 78 111/57 14 98%  
Vitals on arrival: 97.5, 151/56, 79, 97% on RA

 
Past Medical History:
LBBB
HTN
HLD
CKD
Gout
GERD
melanoma
pulmonary hypertension
mitral regurgitation
memory loss

 
Social History:
___
Family History:
Mother died of MI at ___. Father died of cirrhosis at ___.

 
Physical Exam:
ADMISSION: 
Vitals-  97.5, 151/56, 79, 97% on RA
General- AOx1, elderly anxious appearing female 
HEENT- Sclera anicteric,  dry MM, oropharynx clear  
Neck- supple, neck veins flat  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding 
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: 2 erythematous papules on back

DISCHARGE:
Vitals- Tm 98.5, Tc 98.0, 116/58, 81, 18, 100% on RA
General- AOx1, somnolent but arousable, comfortable in bed 
HEENT- Sclera anicteric, oropharynx clear  
Neck- supple, neck veins flat  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding 
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: 2 erythematous papules on back, erythamatous macules 
covering back, trunk, and upper legs, no evidence of oral mucous 
membranes, stable from prior

 
Pertinent Results:
ADMISSION LABS: 

___ 08:26AM   LACTATE-2.5*
___ 08:15AM   GLUCOSE-86 UREA N-35* CREAT-1.8* SODIUM-139 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-25 ANION GAP-18
___ 08:15AM   WBC-11.1*# RBC-2.98* HGB-10.9* HCT-33.9* 
MCV-114*# MCH-36.5* MCHC-32.1 RDW-15.5
___ 08:15AM   NEUTS-51.0 ___ MONOS-12.5* EOS-9.7* 
BASOS-0.5

OTHER PERTINENT LABS: 
___ 07:17AM BLOOD Neuts-56 Bands-0 Lymphs-9* Monos-6 
Eos-28* Baso-1 ___ Myelos-0
___ 07:17AM BLOOD ALT-8 AST-14 AlkPhos-85 TotBili-0.3

DISCHARGE LABS: 
___ 06:30AM BLOOD WBC-5.5 RBC-2.52* Hgb-9.2* Hct-28.4* 
MCV-113* MCH-36.5* MCHC-32.3 RDW-15.3 Plt ___
___ 06:30AM BLOOD Neuts-43.1* ___ Monos-12.5* 
Eos-20.5* Baso-0.1
___ 06:30AM BLOOD Glucose-92 UreaN-24* Creat-1.4* Na-142 
K-4.0 Cl-108 HCO3-26 AnGap-12

MICROBIOLOGY: 
___ 10:04AM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 10:04AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 10:04AM URINE  RBC-0 WBC-48* BACTERIA-MOD YEAST-NONE 
EPI-1

___ 2:34 pm  URINE     
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 8:15 am BLOOD CULTURE
Blood Culture, Routine (Pending): 

___ 9:00 am BLOOD CULTURE
 Blood Culture, Routine (Pending):

IMAGING: 

CXR ___: FINDINGS:  There is minimal linear atelectasis.  
The lungs are otherwise clear.  Heart is top-normal in size.  
The aorta is tortuous with calcification noted at the
arch.  Right paratracheal opacity is stable since ___ without 
mass effect on
the trachea.  There is no pleural effusion or pneumothorax.  
Surgical clips
are noted in the right upper quadrant.
IMPRESSION: No evidence of pneumonia.

CT A/P ___: 
IMPRESSION: Mild apparent wall thickening of the distal sigmoid 
colon could be secondary
to under distention or represent a mild colitis. No surrounding 
fat stranding
or fluid collection. The appendix is well visualized and normal. 


 
Brief Hospital Course:
___ with pmhx of dementia, CKD, gout who presents with lethargy, 
found to have positive UA, course complicated by 
ceftriaxone-related rash. 

ACTIVE MEDICAL ISSUES:
#  UTI: Patient presented ___ several days of lethargy, found 
to have positive UA. Her initial urine culture was contaminated. 
A repeat urine culture on ___ was pending at time of discharge. 
She was originally started on IV Ceftriaxone 1g Q24H (___), 
which was subsequently stopped due to development of an 
erythematous macular rash. She was switched to IV Ciprofloxacin 
(___). She completed a total of a 5-day antibiotic course 
for an uncomplicated UTI. 

# Hypotension: Patient had reported SBP in ___ and 100s at 
rehab. Daughter reports low volume intake and diarrhea for the 
day prior to presentation. She received IVF in ED. Initially 
hypotensive on the floor but returned to ___ following 
IVF.  Her home anti-hypertensives valsartan and lasix were held 
inpatient while she had poor PO intake. She received IVF boluses 
for hypotension as needed.
Her blood pressures predominantly ranged in the 110s/50s while 
hospitalizated, and her anti-htn regimen was held on discharge. 

#  Diarrhea/mild colitis: Pt with reported multiple watery 
stools recently at rehab. Recent abx use for UTI. CT with 
questionable mild colitis. The patient had no further episodes 
of watery stools in the hospital. No antibiotics were started 
for her mild colitis. 

# Conjunctivitis: Pt with purulent discharge from left eye. Per 
daughter, the patient had recent history of left eye pruritis. 
She completed a 5-day course of  erythromycin ointment QID 
(___) for bacterial conjunctivities. On day of discharge, 
she had no left eye drainage or pruritis. 

# Drug rash: Patient developed erythematous macular rash 
following 3 days of Ceftriaxone on ___. She had no evidence of 
oral mucosa involvement. On ___ eosinophils were noted to be 
elevated (absolute count 1820), but LFTs  were within normal 
limits. She received Sarna ointment for pruritis. Ceftriaxone 
was added to her drug allergies. Drug rash improved on 
discharge.

# Dyspnea and question of CP: Per daughter, patient reported 
dyspnea and chest pain prior to hospital arrival. Her CXR was 
without signs of pneumonia. EKG with LBBB was largely unchanged 
from past. Per daughter, patient is known to become anxious when 
feeling unwell. During her hospitalization, she was saturating 
well on room air and was without respiratory distress. 

CHRONIC MEDICAL ISSUES:
#CKD: Patient with stage IV CKD, with baseline Cr ranging 1.5 to 
2.1 per ___ nephrology note. Creatinine on admission was 1.8, 
which is within her recent baseline and trended up to 2.1 on 
___, likely due to hypovolemia in setting of poor PO intake. On 
day of discharge, her creatinine had trended down to 1.4 
baseline.   

#Anemia: Pt with baseline anemia, likely secondary to CKD. Hgb 
last admission ranging from ___. Hgb on admission 10.9, which 
is around baseline. Anemia notably macrocytic, however B12 and 
folate checked during hospital stay in ___ and were within 
normal limits. Given macrocytosis, MDS was thought to be a  
possible component of her anemia. Her Hgb on day of discharge 
was stable at 9.2. 

# HTN: Her home home valsartan and lasix where held in the 
context of hypotension and elevated creatinine. Her blood 
pressures predominately ranged in the 110s/50s while 
hospitalized. 

# HLD: She was continued on her home atorvastatin.
.
# Gout: She was continued on her home allopurinol.
.
# GERD: She was continued on her home ranitidine.
.
# Anxiety: She was continued on her home low-dose alprazolam PRN 
anxiety. 

TRANSITIONAL ISSUES: 
[] Anti-hypertensive medications held given her hypotension. She 
remained normotensive through remainder of hospital stay. We 
will recommend that these be held until she follows up with her 
primary care provider
[] Urine cx pending at time of discharge

- Code status: DNR, ok to intubate
- Emergency Contact: ___ (son and HCP): ___ (h); 
___ (c).  ___ (son and HCP): ___
___ daughter ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. Calcitriol 0.25 mcg PO 1X/WEEK (MO) 
5. Furosemide 40 mg PO DAILY 
6. Mupirocin Ointment 2% 1 Appl TP BID 
7. Ranitidine 150 mg PO DAILY 
8. Valsartan 160 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Senna 17.2 mg PO HS 
11. Clobetasol Propionate 0.05% Soln 1 Appl TP BID 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. Clobetasol Propionate 0.05% Soln 1 Appl TP BID 
5. Ranitidine 150 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcitriol 0.25 mcg PO 1X/WEEK (MO) 
8. Docusate Sodium 100 mg PO BID 
9. Mupirocin Ointment 2% 1 Appl TP BID 
10. Senna 17.2 mg PO HS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Urinary tract infection
- Acute on chronic renal failure
- Macrocytic anemia NOS
- Drug eruption

Secondary:
- Advanced dementia
- Hypertension
- Hyperlipidemia
- Melanoma
- Squamous cell carcinoma
- SLE
- Gout
- Mitral regurgitation
 
Discharge Condition:
Mental Status: Confused - baseline
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
 
Dear Ms. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for a urinary tract infection. You 
were given antibiotics and fluids and your infection improved. 
You were able to return to your assisted living facility
 
Followup Instructions:
___